US08003796B2
Step D. Preparation of benzyl 4-(5-methyl-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
4-Hydroxy-5-methylpyridin-2(1H)-one (554 mg, 4.43 mmol), benzyl 4-(methylsulfonyloxy)piperidine-1-carboxylate (2081 mg, 6.64 mmol), and potassium carbonate (1224 mg, 8.86 mmol) were stirred in DMF (12 mL) at 100° C. under nitrogen for 14 hours. 100 mL water and 100 mL EtOAc was added and then washed the EtOAc layer with 2×100 mL additional water. The organic layer was dried with Na2SO4, filtered, and concentrated to give 1454 mg of a brown oil. The oil was purified by flash chromatography (0-5% MeOH/CH2Cl2) to give product (280 mg, 0.82 mmol, 18%) as a pale tan foam. MS (ESI) 343.4 (M+1).

reactant | 4-Hydroxy-5-methylpyridin-2(1H)-one | 4.43 mmol, 554 mg | OC1=CC(NC=C1C)=O | C6H7NO2
reactant | benzyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | 6.64 mmol, 2081 mg | CS(=O)(=O)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H19NO5S
reactant | potassium carbonate | 8.86 mmol, 1224 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | benzyl 4-(5-methyl-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 1454 mg | CC=1C(=CC(NC1)=O)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H22N2O4
